US08222269B2
Step 1: Methyl {[methyl(phenyl)amino]sulfonyl}acetate (Compound 5-1)
Chlorine gas was passed through a suspension of 230 g of ice, CH12Cl2 (457 ml) and methyl thioglycolate (86 ml, 942 mmol), cooling with an ice/water bath to maintain an internal temperature below 30° C. After approximately six hours, the yellow/green color of the dissolved chlorine persisted for 30 minutes after gas flow was stopped and passing additional chlorine gas was no longer exothermic. The cooling bath was then removed and the biphasic mixture was allowed to stir at ambient temperature for 1 h before being sparged with nitrogen for 20 minutes. The layers were then separated and the organic phase was dried over Na2SO4, filtered and concentrated under reduced pressure to provide the intermediate methyl (chlorosulfonyl)acetate (160 g, 927 mmol) as a yellow oil. A portion of the intermediate methyl (chlorosulfonyl)acetate (100 g, 579 mmol) was added dropwise as a solution in CH2Cl2 (290 ml) to a stirring −15° C. solution of N-methylaniline (124 g, 1159 mmol) dissolved in CH2Cl2 (290 ml). The rate of addition was adjusted to maintain the internal temperature below 5° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature over the course of 2 h and 1M HCl (1000 mL) was added and the aqueous phase was extracted with dichloromethane (2×500 mL). The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The resulting oil was seed crystallized to afford a brown solid. Recrystallization from hot ethanol (320 mL) provided the title compound as an off-white solid. 1H NMR (600 MHz, DMSO-D6) δ 7.40 (m, 4H); 7.31 (m, 1H); 4.30 (s, 2H); 3.65 (s, 3H); 3.26 (s, 3H). LRMS (APCI) calculated for C25H21N4O3S [M+H]+, 244.1. found 244.0.

reactant | methyl (chlorosulfonyl)acetate | 579 mmol, 100 g | ClS(=O)(=O)CC(=O)OC | C3H5ClO4S
reactant | N-methylaniline | 1159 mmol, 124 g | CNC1=CC=CC=C1 | C7H9N
reactant | HCl | 1M, 1000 mL | Cl | ClH
solvent | CH2Cl2 | 290 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 290 ml | C(Cl)Cl | CH2Cl2
product | Methyl {[methyl(phenyl)amino]sulfonyl}acetate | CN(S(=O)(=O)CC(=O)OC)C1=CC=CC=C1 | C10H13NO4S
